US08530461B2
(S)—N-(1-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
A mixture of 3.0 g (12.4 mmol) (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide (I.1), 2.3 g (12.4 mmol) 3-(tert-butyl-dimethyl-silanyloxy)-azetidine (US2008/214520A1), 4.9 g (97%, 49.6 mmol) NaOtBu, 1.48 g (4.96 mmol) 2-(di-tert-butylphosphino)biphenyl and 1.1 g (1.24 mmol) tris-(dibenzylideneacetone)-dipalladium(0) in 30 mL 1,4-dioxane is stirred for 45 min under microwave irradiation at 80° C. After cooling water and MeOH are added, the mixture is filtered, concentrated in vacuo and directly purified by HPLC (column: XbridgeC18; eluent A: water+0.3% NH4OH, eluent B: MeOH) to yield the desired product.

reactant | (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide | 12.4 mmol, 3.0 g | BrC1=CC=C(C=C1)[C@H](C)NC(C)=O | C10H12BrNO
reactant | 3-(tert-butyl-dimethyl-silanyloxy)-azetidine | 12.4 mmol, 2.3 g | C(C)(C)(C)[Si](OC1CNC1)(C)C | C9H21NOSi
reactant | NaOtBu | 49.6 mmol, 4.9 g | CC(C)(C)[O-].[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 4.96 mmol, 1.48 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | (S)—N-(1-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | C(C)(C)(C)[Si](OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O)(C)C | C19H32N2O2Si
